US07361659B2
5-(4-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [2-chloro-5-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-thiophen-3-yl]-amide
The title compound was prepared from 5-(4-chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid (example C.4) and 4-amino-5-chloro-thiophene-2-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide (example B.2) according to general procedure II. Yellow solid. MS (ISP) 605.8 [(M−H)−]; mp 272° C.

reactant | 5-(4-chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid | ClC1=CC=C(C=C1)C1=NC=2N(C(=C1)C(F)(F)F)N=CC2C(=O)O | C14H7ClF3N3O2
reactant | 4-amino-5-chloro-thiophene-2-sulfonic acid (2-hydroxy-1,1-dimethyl-ethyl)-amide | OCC(C)(C)NS(=O)(=O)C=1SC(=C(C1)N)Cl | C8H13ClN2O3S2
product | 5-(4-Chloro-phenyl)-7-trifluoromethyl-pyrazolo[1,5-a]pyrimidine-3-carboxylic acid [2-chloro-5-(2-hydroxy-1,1-dimethyl-ethylsulfamoyl)-thiophen-3-yl]-amide | ClC=1SC(=CC1NC(=O)C=1C=NN2C1N=C(C=C2C(F)(F)F)C2=CC=C(C=C2)Cl)S(NC(CO)(C)C)(=O)=O | C22H18Cl2F3N5O4S2
